US09290517B2
2-((3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)ethanol
LiAlH4 (1.077 ml, 1.077 mmol) was added to a stirred, cooled (0° C.) mixture of ethyl 2-((3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)acetate (178 mg, 0.539 mmol) in THF (5 ml) and the mixture was stirred at room temperature for 2 h. The reaction mixture was quenched with 1N NaOH (1 mL), stirred for 10 minutes, filtered through Celite™ and washed with EtOAc (50 mL). The solution was washed with brine (20 mL), dried (Na2SO4) and concentrated to dryness to give title compound. LC-MS: calculated for C14H28O4Si 288.18 observed m/e: 289.21 (M+H)+ (Rt 1.16/2 min)

reactant | LiAlH4 | 1.077 mmol, 1.077 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 2-((3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)acetate | 0.539 mmol, 178 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OCC2CC(=O)OCC | C16H30O5Si
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-((3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)ethanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OCC2CCO | C14H28O4Si
